Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Bactrim / Procardia
 
Attending: ___.
 
Chief Complaint:
Shortness of Breath
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ M with hx of DM, HTN, diverticulosis,s/p partial colectomy, 
depression, CKD, ___ vascular dementia, s/p pacemaker, 
who has been experiencing night desaturation for the past few 
days, worse this evening.  At ___, he had awoken with 
SOB, satting 89% on 3L NC, improved to 95% on mask at 5L.  Pt 
was given Lasix 40 mg po and 81 mg ASA.  Pt had a second episode 
of SOB overnight, satting 70-80% on mask at 8L and was 
transferred to ___.  RR was 28, BP 150/80, HR 64, T 98 ax.  
Patient was non-communicative at time of exam and history was 
obtained from medical record and from family report.
.
On arrival to ___ ED, SpO2 76% on NRB, ABG of 7.34/66/53.  He 
was started on BiPap (FiO2 60%, PEEP 5, PS 10) with improvement 
of O2 sat to 90-100%.  He received a nitro gtt, Lasix 60 mg IV, 
levofloxacin 750 mg IV, and albuterol nebulizer.   
.  
On review of symptoms, he denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the 
time of surgery, myalgias, joint pains, hemoptysis, black stools 
or red stools. He denies recent fevers, chills or rigors. He has 
a chronic raspy cough per the daughter. All of the other review 
of systems were negative.  
.  
Cardiac review of systems is notable for absence of chest pain, 
palpitations.  Daughter is not aware of any dyspnea on exertion, 
orthopnea.  She has noted that he had ankle edema ("elephant 
legs") in the late ___ and early ___ and had asked ___ 
___ Life to start the patient on Lasix.  Daughter denies any 
syncope or presyncope.  He has poor functional capacity at 
baseline.

  

 
Past Medical History:
PAST MEDICAL HISTORY:  
1. Type 2 DM  
2. Thoracic pseudoaneursym of aorta, 4.3 cm in diameter 
3. HTN  
4. Diverticulosis, s/p partial colectomy  
5. Depression  
6. CRI (baseline Cr 1.3-1.7)  
7. ___ disease  
8. Vascular dementia
9. Pacemaker c/b lead thrombus. Previously followed by Dr ___ 
___ "episodic unreponsiveness." This resolved with pacemaker 
adjustment.  Recently seen by Dr. ___ for 
the thrombus, anticoagulation deferred for h/o falls, unsteady 
gait, and confusion.
11. s/p hip fracture requiring ORIF in ___ with a 
complicated medical course including hypoxic respiratory 
failure.
12. Chronic diastolic dysfunction.

 
Social History:
___
Family History:
There is no family history of premature coronary artery disease 
or sudden death.
 
Physical Exam:
VS: T 95.7 ax, BP 130/85, HR 79, RR 16, O2 95% on BiPap  
Gen: Fatigued older male in NAD. Oriented to self only, ___, 
___  Per daughter, mental status at baseline.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. MMM.  
Neck: Supple with JVP of 7 cm.  
CV: PMI located in ___ intercostal space, midclavicular line. 
RR, normal S1, S2. ?S3.  No murmurs noted.  
Chest:  No accessory muscle use.  Decreased breath sounds 
throughout, diffuse rhonchi.  No crackles, wheezes.  
Abd: Normoactive, soft, NT/ND, No HSM. No abdominial bruits.  
Ext: No femoral bruits.  Trace pedal edema bilaterally.
Skin: No stasis dermatitis, ulcers, scars, or xanthomas.
Neuro:  PERRL, EOMI.  Resting tremor.
.
Pulses:  
Right: Carotid 2+ without bruit; Femoral 2+ without bruit; 2+ 
___  
Left: Carotid 2+ without bruit; Femoral 2+ without bruit; 2+ 
___

 
Pertinent Results:
ADMISSION LABS:

___ 04:05AM BLOOD 
WBC-10.8 RBC-4.64# Hgb-13.5*# Hct-41.4# MCV-89 MCH-29.1 
MCHC-32.6 RDW-14.3 Plt ___
Neuts-84.1* Lymphs-10.8* Monos-2.3 Eos-2.6 Baso-0.2
___ PTT-27.7 ___
Glucose-208* UreaN-22* Creat-1.5* Na-145 K-3.5 Cl-101 HCO3-37* 
AnGap-11

___ 04:05AM BLOOD 
ALT-16 AST-19 LD(LDH)-200 CK(CPK)-85 AlkPhos-70 TotBili-0.4
CK-MB-NotDone proBNP-1203*
Albumin-4.2 Mg-2.0
.
___ 04:20AM BLOOD
Type-ART pO2-53* pCO2-66* pH-7.34* calTCO2-37* Base XS-6 
Intubat-NOT INTUBA
.
___ 05:37AM   TYPE-ART PO2-70* PCO2-68* PH-7.32* TOTAL 
CO2-37* BASE XS-5 INTUBATED-NOT INTUBA
.
___ 10:51AM   TYPE-ART PEEP-5 O2-60 PO2-130* PCO2-66* 
PH-7.35 TOTAL CO2-38* BASE XS-8 INTUBATED-NOT INTUBA
.
___ 01:44PM   CK-MB-NotDone cTropnT-0.02*
___ 01:44PM   CK(CPK)-67
.
___ 04:28AM 
Triglyc-163* HDL-34 CHOL/HD-4.1 LDLcalc-72
.
___ MRN:   ___  Portable TTE (Complete) 
Done ___ at 2:12:50 ___      FINAL 
The left atrium is dilated. There is moderate symmetric left 
ventricular hypertrophy. The left ventricular cavity size is 
normal. Due to suboptimal technical quality, a focal wall motion 
abnormality cannot be fully excluded. Overall left ventricular 
systolic function is normal (LVEF>55%). Right ventricular 
chamber size and free wall motion are normal. The aortic root is 
moderately dilated at the sinus level. The ascending aorta is 
moderately dilated. Trace aortic regurgitation is seen. The 
mitral valve leaflets are mildly thickened. There is no mitral 
valve prolapse. Trivial mitral regurgitation is seen. The left 
ventricular inflow pattern suggests impaired relaxation. The 
pulmonary artery systolic pressure could not be determined. 
There is an anterior space which most likely represents a fat 
pad. 
.
Compared with the prior study (images reviewed) of ___, 
the previously suspected thrombus on the pacing wire is not 
apparent on the current study. However, the suboptimal image 
quality precludes close examination of the pacing wrie. The 
other findings are similar.  
.
Radiology Report CHEST (PORTABLE AP) Study Date of ___ 4:03 
AM 
UPRIGHT PORABLE CHEST 
Streaky linear atelectasis is noted extending from the region of 
the right 
hila and at the left base in this patient with persistent low 
lung volumes. No evidence of interstitial pulmonary edema, 
pneumothorax, or consolidation to suggest pneumonia. The 
cardiomediastinal silhouette is unchanged with stable appearance 
to abnormal contour projecting above the aortic knob consistent 
with the patient's known pseudoaneurysm. Positioning of 
pacemaker leads is unchanged. 
.
Radiology Report CHEST (PA & LAT) Study Date of ___ 1:___re not well penetrated. The right hemidiaphragm 
is elevated, as before. The lungs appear clear except for 
streaky density in the retrocardiac area, which is suboptimally 
evaluated. The cardiac silhouette appears large but may be 
exaggerated by AP technique. A 4.5 cm round density projected 
adjacent to the aortic knob, consistent with a known aortic 
pseudoaneurysm is unchanged. Mediastinal structures are 
unchanged in appearance, and the bony thorax is grossly intact. 
A bipolar transvenous pacemaker remains in place.   
IMPRESSION: Streaky density in the retrocardiac area that may 
represent 
partial atelectasis or consolidation. Elevation of the right 
hemidiaphragm. No definite interval change. 

 
Brief Hospital Course:
The patient is an ___ man with a history of Diabetes, 
Hypertension, diastolic CHF, s/p pacemaker, CKD, ___, 
and vascular dementia who presented for SOB/hypoxia and found to 
be in hypercarbic/hypoxic respiratory failure requiring BiPap.
.
# Hypercarbic/hypoxic respiratory failure:  The patient was 
hypoxic on admission with  SpO2 76% on NRB and an arterial blood 
gas of 7.34/66/53.  He was started on BiPap (FiO2 60%, PEEP 5, 
PS 10) with improvement of O2 sat to 90-100% which was weaned 
over several hours.  The patient had no history of COPD or 
asthma.  His acute hypoxia was felt to be due to diastolic heart 
failure, although CXR appeared to have mild pulmonary edema 
without significant change from ___.  The patient was afebrile, 
without cough, fever or leukocytosis.  PE was considered given a 
previously noted thrombus in the RA and the patient's poor 
functional capacity at baseline. However, repeat ECHO was 
without evidence of thrombus and there was no evidence of DVT on 
physical exam.  The patient received Lasix boluses for diuresis 
and was slowly switched back to his home dose of PO Lasix.  Over 
the course of hospitalization the patient had marked improvement 
in his supplemental oxygen requirements and at the time of 
discharge he was sating well on 4L of oxygen.  
.
# Diastolic CHF:  The patient had an Echocardiogram in ___ with 
evidence of mild pulmonary artery systolic hypertension and 
diastolic dysfunction.  On presentation this admission, the 
patient lacked overt volume overload on arrival and chest xray 
was not remarkably changed from previous exams.  However, BNP 
was elevated at 1203. Blood pressure was noted to be 150/80 and 
the patient was given IV Lasix boluses and started on a Nitro 
gtt for blood pressure control.  Repeat ECHO showed little 
change since previous exam.  We would encourage daily weights 
and a low sodium diet in this patient.  Should his weight 
increase greater than 3 pounds, he should be given an extra ___ 
dose of Lasix. 
.
# HTN:  The patient was noted to be hypertensive during 
admission, with systolic blood pressures to the 160's/170's.  He 
was initially started on a Nitro drip for immediate blood 
pressure control.  He was then transitioned to oral medications. 
 His home dose of metoprolol was increased from 12.5mg daily to 
100mg and he was started on Imdur 30mg daily with a good 
response in BP.  At the time of discharge, his blood pressure 
was in an acceptable range of 110's systolic.
.
# CAD/Ischemia: The patient had an episode of chest pain.  
Cardiac enzymes were unremarkable with troponin was slightly 
elevated in setting of chronic renal failure, possible demand 
ischemia from diastolic CHF. The patient had no known history of 
CAD and no evidence of acute ischemic changes on EKG.
.
# DM: The patient was maintained in glipizide and an insulin 
sliding scale for extra coverage.
.
# CRI (baseline Cr 1.3-1.7):  The patient had a history of 
chronic renal insufficiency and on arrival, his creatinine was 
at baseline.  Following Lasix diuresis, the patient's creatinine 
increased to a peak of 1.9 but was trending down at the time of 
discharge.  The patient was discharged on his home dose of Lasix 
(60mg).  His renal function should be carefully monitored and 
his Lasix dosing adjusted accordingly.
.
# ___ disease/Vascular Dementia/Depression:  The patient 
was maintained on his normal regiment of donepezil, Mirapex, 
bupropion HCl, and Celexa 20 mg.  His nightly trazodone dose was 
increased to 25mg QHS.
.
# Code status: Full code, confirmed with daughter.
. 
 
Medications on Admission:
CURRENT MEDICATIONS:
Furosemide 60 mg daily, started in ___
Metoprolol XL 12.5 mg daily
KCl 10 meq MWF
Glipizide 5 mg daily
Acetaminophen 975 mg q 6 hrs
Bupropion Hcl 75 mg bid
Celexa 20 mg daily
Donepezil 10 mg daily
Mirapex 0.25 mg TID
Trazodone 12.5 mg qhs
Keflex ___ mg daily for chronic suppressive therapy
Ferrous sulfate 325 mg daily
Vitamin D 1000 units daily
Calcium carbonated 650 mg bid 
Vitamin C
Vitamin B12 1000 mcg IM monthly
Melatonin 4 mg qhs
 
Discharge Medications:
1. Bupropion 75 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
2. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable PO BID (2 times a day).  
3. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: Two (2) 
Tablet PO DAILY (Daily).  
4. Citalopram 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
5. Donepezil 5 mg Tablet Sig: Two (2) Tablet PO HS (at bedtime). 
 
6. Ferrous Sulfate 325 mg (65 mg Iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
7. Pramipexole 0.25 mg Tablet Sig: One (1) Tablet PO TID (3 
times a day).  
8. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) as needed.  
9. Bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily) as needed.  
10. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed.  
11. Aspirin 325 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).  
12. Glipizide 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

13. Trazodone 50 mg Tablet Sig: 0.5 Tablet PO HS (at bedtime) as 
needed.  
14. Isosorbide Mononitrate 10 mg Tablet Sig: One (1) Tablet PO 
BID (2 times a day).  
15. Metoprolol Succinate 100 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO DAILY (Daily).  
16. Potassium Chloride 10 mEq Tab Sust.Rel. Particle/Crystal 
Sig: One (1) Tab Sust.Rel. Particle/Crystal PO MWF.  
17. Cephalexin 500 mg Capsule Sig: One (1) Capsule PO Q24H 
(every 24 hours).  
18. Iron (Ferrous Sulfate) 325 mg (65 mg Iron) Tablet Sig: One 
(1) Tablet PO once a day.  
19. Vitamin C 100 mg Tablet Sig: One (1) Tablet PO once a day.  
20. Vitamin B-12 1,000 mcg/mL Solution Sig: One (1)  Injection 
once a month.  
21. Melatonin 1 mg Tablet Sig: Four (4) Tablet PO qHS.  
22. Lasix 20 mg Tablet Sig: Three (3) Tablet PO once a day.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary: 
diastolic Heart Failure 
HTN  
Type 2 DM  
CRI (1.3-1.7)  
 
Secondary: 
Diverticulosis, s/p partial colectomy  
Depression  
___ disease  
Dementia-vascular on MRI ___  
Pacemaker  
 
Discharge Condition:
The patient was hemodynamically stable, afebrile and without 
pain.  He was sating 96% on 3L NC oxygen.

 
Discharge Instructions:
You were admitted for evaluation of shortness of breath.  It was 
felt that your symptoms were realated to poor heart function.  
You were treated with diuretics and oxygen with a significant 
improvement in your symptoms.

During your hospitalization, it was noted that your blood 
pressure was elevated.  We have increased your dose of 
metoprolol to 100mg daily and we have also added an additional 
medication (Imdur).  You should take both medications as 
prescribed.

We have also increased your dose of trazadone from 12.5 to 25mg 
every evening.  

Please take all medications as prescribed.

You should follow-up with your primary care doctor with regards 
to your kidney function.  

You should be weighed daily.  If you have a weight gain > 3lbs, 
you should take an EXTRA dose of Lasix (40 mg) in the evening.

Please call your doctor or return to the hospital if you develop 
chest pain, increased shortness of breath, numbness or tingling 
in your arm, nausea, vomiting, fevers, chills or any other 
symptoms of concern.
 
Followup Instructions:
___